US07081538B1
(5RS)-3-(3-Fluoro-4-pyrazol-1-ylphenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole
(5RS)-3-(3,4-Difluorophenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole (140 mg, 0.5 mM) was treated with pyrazole using essentially the conditions of Example 5. Crude product was chromatographed on a S g silica Mega Bond Elut® column, eluting with a gradient from 0–25% ethyl acetate in dichloromethane. Relevant fractions were combined to give the desired product (37 mg). MS ESP): 329 (MH+) for C16H13FN4O3

reactant | (5RS)-3-(3,4-Difluorophenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 0.5 mM, 140 mg | FC=1C=C(C=CC1F)C1=NOC(C1)COC1=NOC=C1 | C13H10F2N2O3
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | (5RS)-3-(3-Fluoro-4-pyrazol-1-ylphenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 37 mg | FC=1C=C(C=CC1N1N=CC=C1)C1=NOC(C1)COC1=NOC=C1 | C16H13FN4O3
